US04001222
3-(3-aminopropionyl)-1-{[5-(4-chlorophenyl)furfurylidene]amino}hydantoin Hydrochloride
The 3-(t-butoxycarbonyl-aminopropionyl)-1-{[5-(4-chlorophenyl) furfurylidene]amino}hydantoin (47 g, 0.11 mole) was added to 3% hydrochloric acid/acetic acid (500 ml) and was stirred for 2 hours. The mixture was filtered and the collected solid was washed with nitromethane and ether which yielded 30.5 g (82% overall), m.p. 242°-245°.

reactant | 3-(t-butoxycarbonyl-aminopropionyl)-1-{[5-(4-chlorophenyl) furfurylidene]amino}hydantoin | 0.11 mole, 47 g | C(C)(C)(C)OC(=O)C(CC(=O)N1C(N(CC1=O)N=CC1=CC=C(O1)C1=CC=C(C=C1)Cl)=O)N | C22H23ClN4O6
solvent | hydrochloric acid acetic acid | 500 ml | Cl.C(C)(=O)O
product | 3-(3-aminopropionyl)-1-{[5-(4-chlorophenyl)furfurylidene]amino}hydantoin Hydrochloride | Cl.NCCC(=O)N1C(N(CC1=O)N=CC1=CC=C(O1)C1=CC=C(C=C1)Cl)=O | InChI=1S/C17H15ClN4O4.ClH/c18-12-3-1-11(2-4-12)14-6-5-13(26-14)9-20-21-10-16(24)22(17(21)25)15(23)7-8-19;/h1-6,9H,7-8,10,19H2;1H
